US07576080B2
A mixture of thionyl chloride (15 ml, 200 mmol), 4-hydroxy-5-(thiazol-2-yl)thieno[2,3-d]pyrimidine (1.44 g, 12 mmol) and N,N-dimethylformamide (3 mL) was heated at 73° C. for 3 hours and then carefully poured into 200 mL of ice/water. The pH was adjusted to between 7 and 8 with sodium bicarbonate and then the product was extracted with ethyl acetate (2×450 mL). The organic fractions were combined, dried (MgSO4) and concentrated. The resulting residue was purified by column chromatography over silica gel using a gradient elution from 10 to 20% ethyl acetate in hexanes to give 0.825 g (53%) of 4-chloro-5-(thiazol-2-yl)thieno[2,3-d]pyrimidine as a brown solid. MS [M+H] 254.0, 1H NMR (400 MHz, 10% CD3OD/CDCl3) δ (ppm) 8.92 (s, 1H), 8.00 (d, J=3.2 Hz, 1H), 7.85 (s, 1H), 7.55 (d, J=3.2 Hz, 1H).

reactant | thionyl chloride | 200 mmol, 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-5-(thiazol-2-yl)thieno[2,3-d]pyrimidine | 12 mmol, 1.44 g | OC=1C2=C(N=CN1)SC=C2C=2SC=CN2 | C9H5N3OS2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-chloro-5-(thiazol-2-yl)thieno[2,3-d]pyrimidine | 0.825 g, 53% | ClC=1C2=C(N=CN1)SC=C2C=2SC=CN2 | C9H4ClN3S2
